US08030334B2
A flask is charged with 2-(5-bromopyridin-3-yl)-1H-indole (1.2 g, 4.39 mmol), acetonitrile (100 mL), potassium carbonate (1.2 g, 8.79 mmol) and 5-(trifluoromethyl)-5H-dibenzo[b,d]thiophenium trifluoromethanesulfonate (2.65 g, 6.59 mmol). The flask is lowered into an oil bath preheated to 70° C., and the mixture is stirred under N2 overnight. The mixture is cooled to room temperature and silica gel (10 g) is added. The suspension is concentrated in vacuo and the residue is purified by silica chromatography eluting with a 0 to 30% EtOAc-heptane gradient to give 2-(5-bromopyridin-3-yl)-3-(trifluoromethyl)-1H-indole; 1H NMR (400 MHz, DMSO-d6) δ ppm 7.25 (t, J=7.6 Hz, 1H), 7.33 (t, J=7.1 Hz, 1H), 7.55 (d, J=8.1 Hz, 1H), 7.69 (d, J=7.8 Hz, 1H), 8.33 (t, J=2.0 Hz, 1H), 8.79 (d, J=1.8 Hz, 1H), 8.86 (d, J=2.0 Hz, 1H).

reactant | 2-(5-bromopyridin-3-yl)-1H-indole | 4.39 mmol, 1.2 g | BrC=1C=C(C=NC1)C=1NC2=CC=CC=C2C1 | C13H9BrN2
reactant | potassium carbonate | 8.79 mmol, 1.2 g | C([O-])([O-])=O.[K+].[K+]
reactant | 5-(trifluoromethyl)-5H-dibenzo[b,d]thiophenium trifluoromethanesulfonate | 6.59 mmol, 2.65 g | FC(S(=O)(=O)[O-])(F)F.FC([S+]1C2=C(C3=C1C=CC=C3)C=CC=C2)(F)F
solvent | acetonitrile | 100 mL | C(C)#N | C2H3N
product | 2-(5-bromopyridin-3-yl)-3-(trifluoromethyl)-1H-indole | BrC=1C=C(C=NC1)C=1NC2=CC=CC=C2C1C(F)(F)F | C14H8BrF3N2
